US06291455B1
A mixture of 4-chloro-6,7-dimethoxyquinazoline hydrochloride (500 mg, 1.916 mmol), (prepared as described for the starting material in Example 2), and 4-chloro-3-hydroxyaniline (300 mg, 2.09 mmol), (as described in UK patent 1427658), in isopropanol (10 ml) was heated at reflux for 2 hours. The mixture was allowed to cool, the solid product collected by filtration, washed with isopropanol and dried to give 4-(4-chloro-3-hydroxyanilino)-6,7-dimethoxyquinazoline hydrochloride (605 mg, 86%). m.p. >250° C.

reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 1.916 mmol, 500 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 4-chloro-3-hydroxyaniline | 2.09 mmol, 300 mg | ClC1=C(C=C(N)C=C1)O | C6H6ClNO
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-(4-chloro-3-hydroxyanilino)-6,7-dimethoxyquinazoline hydrochloride | 605 mg, 86% | Cl.ClC1=C(C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)O | InChI=1S/C16H14ClN3O3.ClH/c1-22-14-6-10-12(7-15(14)23-2)18-8-19-16(10)20-9-3-4-11(17)13(21)5-9;/h3-8,21H,1-2H3,(H,18,19,20);1H
